US08304557B2
3-methyl-N-[3-({2-[(morpholin-4-ylacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]pyridine-2-carboxamide
A mixture of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide (129 mg, 0.359 mmol), morpholin-4-ylacetic acid (56.8 mg, 0.391 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (97.8 mg, 0.510 mmol), 1H-benzotriazol-1-ol (50.7 mg, 0.375 mmol), N,N-diisopropylethylamine (123 μL, 0.719 mmol) and N,N-dimethylacetamide (5 mL) was stirred at room temperature for 21 hr. The reaction mixture was diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 0%→75% ethyl acetate-hexane) to give the title compound (82.8 mg, 47%) as a pale-yellow solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide | 0.359 mmol, 129 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C20H17N5O2
reactant | morpholin-4-ylacetic acid | 0.391 mmol, 56.8 mg | N1(CCOCC1)CC(=O)O | C6H11NO3
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.510 mmol, 97.8 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1H-benzotriazol-1-ol | 0.375 mmol, 50.7 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.719 mmol, 123 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 3-methyl-N-[3-({2-[(morpholin-4-ylacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]pyridine-2-carboxamide | 82.8 mg, 47% | CC=1C(=NC=CC1)C(=O)NC1=CC(=CC=C1)OC=1C=CC=2N(C1)C=C(N2)NC(CN2CCOCC2)=O | C26H26N6O4
